US07960394B2
6-Chloro-3-methyl-2-[4-(3-piperidin-1-ylpropoxy)-phenyl]pyrido[3,4-d]-pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 5-amino-2-chloroisonicotinic acid, methylamine and 4-(3-piperidin-1-ylpropoxy)benzaldehyde.

reactant | 5-amino-2-chloroisonicotinic acid | NC1=CN=C(C=C1C(=O)O)Cl | C6H5ClN2O2
reactant | methylamine | CN | CH5N
reactant | 4-(3-piperidin-1-ylpropoxy)benzaldehyde | N1(CCCCC1)CCCOC1=CC=C(C=O)C=C1 | C15H21NO2
product | 6-Chloro-3-methyl-2-[4-(3-piperidin-1-ylpropoxy)-phenyl]pyrido[3,4-d]-pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C)C2=CC=C(C=C2)OCCCN2CCCCC2)C=N1 | C22H25ClN4O2
